US05124350
1-(2,4-Dihydroxy-3-propylbenzoyl)pyrrolidine
1-[2,4-dihydroxy-3-(2-propenyl)benzoyl]pyrrolidine (750 mg) in 2 ml ethanol was hydrogenated at room temperature and 5 psi for three hours using 4% Pd/C as catalyst. The solvent was removed under vacuum and the residue was chromatographed on silica gel using 50/50 ethyl acetate/hexane as eluant to give the product (650 mg).

reactant | 1-[2,4-dihydroxy-3-(2-propenyl)benzoyl]pyrrolidine | 750 mg | OC1=C(C(=O)N2CCCC2)C=CC(=C1CC=C)O | C14H17NO3
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-(2,4-Dihydroxy-3-propylbenzoyl)pyrrolidine | 650 mg | OC1=C(C(=O)N2CCCC2)C=CC(=C1CCC)O | C14H19NO3
